US07157464B2
Synthesis of 2-Chloro-1-[4-(4-chloro-phenyl)-2-methyl-(R)-piperazin-1-yl]-ethanone
Protocol S was followed using 1-(4-Chloro-phenyl)-3-(R)-methyl-piperazine, Et3N, chloroacetyl chloride and methylene chloride. Column chromatography afforded the title compound

reactant | 1-(4-Chloro-phenyl)-3-(R)-methyl-piperazine | ClC1=CC=C(C=C1)N1C[C@H](NCC1)C | C11H15ClN2
reactant | Et3N | CCN(CC)CC | C6H15N
reactant | chloroacetyl chloride | ClCC(=O)Cl | C2H2Cl2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-Chloro-1-[4-(4-chloro-phenyl)-2-methyl-(R)-piperazin-1-yl]-ethanone | ClCC(=O)N1[C@@H](CN(CC1)C1=CC=C(C=C1)Cl)C | C13H16Cl2N2O
